US04145432
A solution of thiophene-2-carbaldehyde (2.2430 g), ethyl 4,4-diethoxyacetoacetate (4.3648 g) and piperidine (4 drops) in benzene (20 ml) was refluxed under azeotropic dehydration for 4.5 hours. After cooling, to the resultant solution was added diethyl ether, and the solution was washed with watr and dried. The solvent was removed from the reaction mixture to give oily ethyl 2-(2-thenylidene)-4,4-diethoxyacetoacetate. The mixture of the compound obtained above and ethyl 3-aminocrotonate (2.6 g) was heated in an oil bath (about 100° C.) for 7.5 hours. The resultant mixture was dissolved in diethyl ether, washed with water and dried. The solvent was removed to give brown oil (9.0 g). The oil was purified by column chromatography on silica gel with an eluent (benzene : ethyl acetate = 20:1) to give diethyl 2-methyl-4-(2-thienyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate. The product was recrystallized from n-hexane to give yellowish crystals (2.2056 g), m.p. 77° to 77.5° C.

reactant | thiophene-2-carbaldehyde | 2.2430 g | S1C(=CC=C1)C=O | C5H4OS
reactant | ethyl 4,4-diethoxyacetoacetate | 4.3648 g | C(C)OC(C(CC(=O)OCC)=O)OCC | C10H18O5
reactant | diethyl ether | C(C)OCC | C4H10O
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(2-thenylidene)-4,4-diethoxyacetoacetate | C1(=CC=CS1)C=C(C(=O)OCC)C(=O)C(OCC)OCC | C15H20O5S
